US04816452
b. Ethyl 4-bromo-(Z)-2-(decahydronaphth-2-yloxyimino)-3-oxobutyrate
Ethyl (Z)-2-(decahydronaphth-2-yloxyimino)-3-oxobutyrate (1.7 g) in carbon tetrachloride (10 ml) was treated with bromine (0.29 ml). The mixture was stirred at room temperature for lh, then the solvent was evaporated under reduced pressure. The residue was dissolved in ether, washed with water, dried (MgSO4) and evaporated under reduced pressure. The title compound (0.7 g) was isolated by flash chromatography on silica eluting with chloroform:carbon tetrachloride. δH (CDCl3) 1.33 (3H, t), 1.10-2.00 (16H, m), 6.35 (2H, s), 4.40 (2H, q), and 4.40 (1H, m).

reactant | Ethyl (Z)-2-(decahydronaphth-2-yloxyimino)-3-oxobutyrate | 1.7 g | C1C(CCC2CCCCC12)O\N=C(/C(=O)OCC)\C(C)=O | C16H25NO4
reactant | bromine | 0.29 ml | BrBr | Br2
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | Ethyl 4-bromo-(Z)-2-(decahydronaphth-2-yloxyimino)-3-oxobutyrate | 0.7 g | BrCC(/C(/C(=O)OCC)=N/OC1CC2CCCCC2CC1)=O | C16H24BrNO4
